US05643878
b) 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(m-cyanophenylmethyl)-hexanoic acid
Analogously to Example 1i), 1.6 g (3.8 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-(m-cyanophenylmethyl)-dihydrofuran-2-(3H)-one in 37 ml of dimethoxyethane and 20 ml of water are hydrolysed with 15.2 ml of 1M lithium hydroxide solution to yield the title compound: tRet (I)=13.8 min.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-(m-cyanophenylmethyl)-dihydrofuran-2-(3H)-one | 3.8 mmol, 1.6 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC(=CC=C1)C#N | C25H28N2O4
reactant | lithium hydroxide | 1M, 15.2 ml | [OH-].[Li+]
solvent | dimethoxyethane | 37 ml | C(OC)COC | C4H10O2
solvent | water | 20 ml | O | H2O
product | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(m-cyanophenylmethyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=CC=C1)C#N)O)CC1=CC=CC=C1 | C25H30N2O5
